* C:\Users\Shanthipriya\eSim-Workspace\sn74ls90\sn74ls90.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/15/25 17:30:55

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_U4-Pad2_ clock Net-_U3-Pad2_ Net-_U1-Pad2_ ? ? ? ? Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ 54LS90		
v3  Net-_U2-Pad1_ GND pulse		
U2  Net-_U2-Pad1_ clock adc_bridge_1		
U5  clock plot_v1		
v1  Net-_U1-Pad1_ GND DC		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ adc_bridge_1		
v2  Net-_U3-Pad1_ GND DC		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ adc_bridge_1		
v4  Net-_U4-Pad1_ GND DC		
U4  Net-_U4-Pad1_ Net-_U4-Pad2_ adc_bridge_1		
U6  QA plot_v1		
U7  QB plot_v1		
U8  QC plot_v1		
U9  QD plot_v1		
R4  QD GND 10K		
R3  QC GND 10K		
R2  QB GND 10K		
R1  QA GND 10K		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ QA QB QC QD dac_bridge_4		

.end
